US07576122B2
Step B: 1-tert-butyl-6-methoxy-3H-pyrano[3,4-b][1]benzofuran-3-one
Dissolve 98 mg [2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzofuran-3-yl]acetic acid from the Step B Example 1, 176 μL DIEA, and 114 mg HOBt in 3.5 mL dry DMF. Add 97.1 mg EDC and let the mixture stir at room temperature over night. It was purified directly on RP-HPLC using 50-70% MeCN gradient. The fractions containing pure product were pooled and lyophilized to give the title compound as yellow solid. 1H NMR (CDCl3, 500 MHz) 7.34 (dd, J=1.3 & 8.4 Hz, 1H), 7.25˜7.29 (m, 2H), 6.54 (s, 1H), 3.92 (s, 3H), 1.52 (s, 9H). LC-MS: 3.55 min. (M+H=273.1).

reactant | [2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzofuran-3-yl]acetic acid | 98 mg | CC(C(=O)C=1OC2=C(C1CC(=O)O)C=C(C=C2)OC)(C)C | C16H18O5
reactant | DIEA | 176 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 114 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 97.1 mg
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
product | 1-tert-butyl-6-methoxy-3H-pyrano[3,4-b][1]benzofuran-3-one | C(C)(C)(C)C=1OC(C=C2C1OC1=C2C=C(C=C1)OC)=O | C16H16O4
